US04579848
3-(Difluoromethoxy)benzaldehyde Oxime
A 2.0 g portion of hydroxylamine hydrochloride was dissolved in 12 ml of water and 8 ml of 5N sodium hydroxide was added. A 1.0 g portion of 3-(difluoromethoxy)benzaldehyde was added followed by enough ethanol to give a solution. After 10 minutes of reflux, the reaction mixture was concentrated in vacuo and the residue taken up in 10 ml of water. The pH was adjusted to 4 with hydrochloric acid, then the mixture was extracted with chloroform. The organic phase was dried over sodium sulfate and concentrated, giving the desired compound as an oil.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | 5N, 8 ml | [OH-].[Na+]
reactant | 3-(difluoromethoxy)benzaldehyde | FC(OC=1C=C(C=O)C=CC1)F | C8H6F2O2
reactant | ethanol | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
product | 3-(Difluoromethoxy)benzaldehyde Oxime | FC(OC=1C=C(C=NO)C=CC1)F | C8H7F2NO2
